US06362178B1
200 mg (0.39 mmol) of 2-{2-ethoxy-5-[4-(2-hydroxy-ethyl)-piperazine-1-sulphonyl]-phenyl}-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are suspended in ether, admixed with 2 ml of a 1M solution of HCl in ether and stirred at room temperature for 20 minutes. The solvent is removed, giving 209 mg (100%) of 2-{2-ethoxy-5-[4-(2-hydroxy-ethyl)-piperazine-1-sulphonyl]-phenyl}-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride.

reactant | 2-{2-ethoxy-5-[4-(2-hydroxy-ethyl)-piperazine-1-sulphonyl]-phenyl}-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.39 mmol, 200 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)CCO)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C23H32N6O5S
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-{2-ethoxy-5-[4-(2-hydroxy-ethyl)-piperazine-1-sulphonyl]-phenyl}-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride | 209 mg, 100% | Cl.C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)CCO)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | InChI=1S/C23H32N6O5S.ClH/c1-4-6-20-24-16(3)21-23(31)25-22(26-29(20)21)18-15-17(7-8-19(18)34-5-2)35(32,33)28-11-9-27(10-12-28)13-14-30;/h7-8,15,30H,4-6,9-14H2,1-3H3,(H,25,26,31);1H
